US07767675B2
Step 1. 4-(2-aminopyrimidin-5-yl)-2-fluoro-N-methylbenzenesulfonamide
4-Bromo-2-fluorobenzenesulfonyl chloride (100 mg, 0.36 mmol) was added to a mixture of methylamine (2M in THF, 0.275 mL, 0.55 mmol) and triethylamine (0.10 mL, 0.73 mmol) in methylene chloride (2.0 mL). The reaction mixture was quenched with saturated NaHCO3 (1.0 mL) and concentrated to afford the crude intermediate in water. A mixture of the intermediate in water, 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine (81 mg, 0.36 mmol), tetrakis(triphenylphosphine)palladium (20 mg, 0.02 mmol), potassium carbonate (150 mg, 1.1 mmol) in toluene (2.0 mL) and ethanol (1.0 mL) was heated at 110° C. for 2 h. After cooling to RT, ether was added to the mixture and the solid was filtered, washed with water and ether to afford the desired product (0.086 g, 83%). LCMS: (M+H)=282.9.

reactant | 4-Bromo-2-fluorobenzenesulfonyl chloride | 0.36 mmol, 100 mg | BrC1=CC(=C(C=C1)S(=O)(=O)Cl)F | C6H3BrClFO2S
reactant | methylamine | 0.55 mmol, 2M, 0.275 mL | CN | CH5N
reactant | triethylamine | 0.73 mmol, 0.10 mL | C(C)N(CC)CC | C6H15N
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine | 0.36 mmol, 81 mg | CC1(OB(OC1(C)C)C=1C=NC(=NC1)N)C | C10H16BN3O2
reactant | potassium carbonate | 1.1 mmol, 150 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | 2.0 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1.0 mL | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium | 0.02 mmol, 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ether | CCOCC | C4H10O
product | 4-(2-aminopyrimidin-5-yl)-2-fluoro-N-methylbenzenesulfonamide | 0.086 g, 83% | NC1=NC=C(C=N1)C1=CC(=C(C=C1)S(=O)(=O)NC)F | C11H11FN4O2S
